US08957074B2
Following amide formation method 1, 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid with 5 equiv LiCl and 1,3,5-trimethyl-3,7-diazabicyclo[3.3.1]nonan-9-ol were combined and gave 7-cyclopentyl-2-(5-(9-hydroxy-1,5,7-trimethyl-3,7-diazabicyclo[3.3.1]nonane-3-carbonyl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (266 mg) in 68% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.77 (s, 1H), 8.56 (d, J=8.6 Hz, 1H), 8.33 (s, 1H), 8.17 (br s, 1H), 7.72 (d, J=8.6 Hz, 1H), 6.49 (s, 1H), 4.81 (m, 2H), 3.74 (br m, 1H), 3.26 (s, 1H), 3.18 (s, 6H), 3.07 (br m, 1H), 2.70-2.56 (m, 4H), 2.29 (br m, 3H), 2.19 (s, 3H), 2.15-2.03 (m, 4H), 1.89 (m, 1H), 1.75 (m, 2H), 1.00 (br s, 3H), 0.83 (br s 3H)

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | LiCl | 5 equiv | [Li+].[Cl-]
reactant | 1,3,5-trimethyl-3,7-diazabicyclo[3.3.1]nonan-9-ol | CC12CN(CC(CNC1)(C2O)C)C | C10H20N2O
product | 7-cyclopentyl-2-(5-(9-hydroxy-1,5,7-trimethyl-3,7-diazabicyclo[3.3.1]nonane-3-carbonyl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 266 mg, 68% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC1(CN(CC(C2)(C1O)C)C)C)C(=O)N(C)C | C30H40N8O3
